US04921850
2-Cyano-2-fluoromethoxyiminoacetamide
2-Cyano-2-hydroxyiminoacetamide (22.6 g) was dissovled in dimethyl sulfoxide (100 ml), and then potassium carbonate (55.2 g) was added thereto with stirring at room temperature, and the solution was further stirred for additional 20 minutes. Fluorobromomethane (27 g) dissolved in dimethylformamide (20 ml) was then added to the solution, and the solution was stirred for 20 hours at room temperature and the allowed to cool. The reaction solution was added to iced water (1 liter), and extracted twice with ethyl acetate (150 ml). The organic layer was washed twice with a saturated brine, and dried with addition of anhydrous magnesium sulfate, followed by distilling off the solvent. The residue was washed with ethyl ether, and dried to obtain the objective product (14.4 g).

reactant | 2-Cyano-2-hydroxyiminoacetamide | 22.6 g | C(#N)C(C(=O)N)=NO | C3H3N3O2
reactant | potassium carbonate | 55.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | Fluorobromomethane | 27 g | FCBr | CH2BrF
reactant | water | 1 liter | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Cyano-2-fluoromethoxyiminoacetamide | 14.4 g | C(#N)C(C(=O)N)=NOCF | C4H4FN3O2
